US20010021718A1
(3R)-6-Cyclohexyl-3-{3-[(2-ethoxy-1 -methyl-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}hexanoic acid
A solution of tert-butyl (3R)-6-cyclohexyl-3-{3-[(2-ethoxy-1-methyl-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}hexanoate (Preparation 88) (480 mg, 1.06 mmol) in dichloromethane (8 ml) was treated with trifluoroacetic acid (3.5 ml) and stirred at room temperature for 5 hours. The solvent was removed under reduced pressure and the residue azeotroped from toluene and dichloromethane. The oil was purified by column chromatography on silica gel eluting with a gradient system of 100:0:0 (dichloromethane:methanol:acetic acid) gradually changing to 95:5:0.5 (dichloromethane:methanol:acetic acid) to afford the title compound as a colourless oil (395 mg).

reactant | tert-butyl (3R)-6-cyclohexyl-3-{3-[(2-ethoxy-1-methyl-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}hexanoate | 1.06 mmol, 480 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COC(C(=O)OCC)C | C24H40N2O6
reactant | trifluoroacetic acid | 3.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (3R)-6-Cyclohexyl-3-{3-[(2-ethoxy-1 -methyl-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}hexanoic acid | 395 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)COC(C(=O)OCC)C | C20H32N2O6
